* Allomorph Source Netlist: Dingwall FD3n Multi-Scale Bridge
* Physical Spec: Dingwall FD3n Neodymium Dual-Coil in Parallel (2.3H L, 4.4k Rdc, 150k Reddy, 120pF Ccoil)
* Electronics: Factory 500k Volume Pot, 500k Tone Pot (100% Wide Open, 47nF Cap), 750pF Cable
.options plotwinsize=0 numdgt=7

* 1. Audio Source
V_in in 0 wavefile="T3K-sweep-v3.wav"

* 2. Pickup Coils (Dingwall FD3 Dual Coils in Parallel)
L_coil in node1 2.3
R_dc node1 node2 4.4k
R_eddy in node2 150k
C_coil node2 0 120p

* 3. Dingwall Factory Passive Tone Pot (500k Audio with 47nF Capacitor)
R_tone node2 tone_mid 500k
C_tone tone_mid 0 47n

* 4. Dingwall Factory 500k Volume Pot (Volume @ 100%)
R_pot_top node2 node3 10
R_pot_bot node3 0 500k

* 5. Instrument Cable Load (15-ft cable ~750pF)
C_cable node3 0 750p

* 6. Darkglass Anagram Input Stage (1 M-Ohm || 30pF)
R_anagram node3 0 1Meg
C_anagram node3 0 30p

.end
